US03952001
A mixture of 9.5 g. 3-isobutylsulphonyl-1,2,4-triazole, 8.2 g. dipropylcarbamoyl chloride, 7.5 ml. dry triethylamine and 100 ml. dry tetrahydrofuran was refluxed under anhydrous conditions for 11 hours. The reaction mixture was worked up as described in Example 1, using ether in place of methylene dichloride, to give 1-dipropylcarbamoyl-3-isobutylsulphonyl-1,2,4-triazole, m.p. 62° - 63.5°C. (from petroleum ether, b.p. 62° - 68°C.).

reactant | 3-isobutylsulphonyl-1,2,4-triazole | C(C(C)C)S(=O)(=O)C1=NNC=N1 | C6H11N3O2S
reactant | dipropylcarbamoyl chloride | C(CC)N(C(=O)Cl)CCC | C7H14ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-dipropylcarbamoyl-3-isobutylsulphonyl-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)S(=O)(=O)CC(C)C)CCC | C13H24N4O3S
